US04539324
3-(Chloromethyloxymethyl)-1,2,5-thiadiazole
3-(Chloromethyloxymethyl)-1,2,5-thiadiazole Sulfuryl chloride (0.24 mmol) in dry dichloromethane (0.5 ml) was added dropwise over a period of 3 minutes at 0° C. to a solution of 3-(Methylthiomethyloxy)methyl-1,2,5-thiadiazole (0.24 mmol) in dry dichloromethane (1.5 ml). The mixture was stirred at 0° C. for 5 minutes and at room temperature for 10 minutes before the solution was evaporated at reduced pressure. The crude product (30 mg, 75%) was used for alkylation in Example 9 without any further purification.

reactant | 3-(Chloromethyloxymethyl)-1,2,5-thiadiazole Sulfuryl chloride | 0.24 mmol | S(=O)(=O)(Cl)Cl.ClCOCC1=NSN=C1
reactant | 3-(Methylthiomethyloxy)methyl-1,2,5-thiadiazole | 0.24 mmol | CSCOCC1=NSN=C1 | C5H8N2OS2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | 3-(Chloromethyloxymethyl)-1,2,5-thiadiazole | ClCOCC1=NSN=C1 | C4H5ClN2OS
